US06444694B1
A suspension of 3,4-dimethoxycinnamonitrile (10 g; 52 mmol) in EtOH (150 mL) was cooled in an ice bath. The cold mixture was then saturated with hydrogen chloride. The reaction solution was refrigerated for 18 hours. The precipitate formed was collected by filtration. The colorless solid gave 8.0 g (60% yield) of methyl-(3,4-dimethoxy)-cinnamoimidate hydrochloride which was used in the next reaction, 1H-NMR (DMSO-d6; 200 MHz) δ11.8 (broad s, 1H), 10.9 (broad s, 1H), 7.82-7.9 (d, 1H), 7.3 (d, 2H), 7.02-7.12 (d, 1H), 6.81-6.9 (d, 1H), 4.2 (s, 3H), and 3.76 (s, 3H), 3.82 ppm (s, 3H).

reactant | 3,4-dimethoxycinnamonitrile | 52 mmol, 10 g | COC=1C=C(C=CC#N)C=CC1OC | C11H11NO2
reactant | hydrogen chloride | Cl | ClH
reactant | EtOH | 150 mL | CCO | C2H6O
product | methyl-(3,4-dimethoxy)-cinnamoimidate hydrochloride | 8.0 g, 60% yield | Cl.COC(C=CC1=CC(=C(C=C1)OC)OC)=N | InChI=1S/C12H15NO3.ClH/c1-14-10-6-4-9(8-11(10)15-2)5-7-12(13)16-3;/h4-8,13H,1-3H3;1H
